US06900298B2
5.6 g of uracil and 0.1 g of ammonium sulfate were dissolved in 22.4 ml of 1,1,1,3,3,3-hexamethyldisilazane and reacted at 120° C. for 2.5 hours. After the completion of the reaction, the reaction mixture was distilled to give 11.8 g of 2,4-bis(trimethylsilyloxy)-1,3-diazine. 1H-NMR (400 MHz, in C2D6CO): δ=0.29 (s, 9H), 0.31 (s, 9H), 6.35 (d, J=5.6 Hz, 1H), 8.19 (d, J=5.5Hz, 1H)

reactant | uracil | 5.6 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | ammonium sulfate | 0.1 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 22.4 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2,4-bis(trimethylsilyloxy)-1,3-diazine | 11.8 g | C[Si](OC1=NC=CC(=N1)O[Si](C)(C)C)(C)C | C10H20N2O2Si2
